US09238026B2
A solution of ethyl 2-(tert-butoxy)-2-(3,5-dibromothiophen-2-yl)acetate (100 mg, 0.25 mmol), phenylboronic acid (36 mg, 0.30 mmol) and sodium carbonate (106 mg, 1.00 mmol) in a mixture of toluene (1.26 mL), ethanol (0.6 mL) and water (0.5 mL) was bubbled with nitrogen for 5 minutes. Palladium tetrakis(triphenylphosphine) (14 mg, 0.01 mmol) was added and the reaction mixture was heated a 95° C. overnight. After cooling to room temperature, water (2 mL) was added. The aqueous layer was extracted with toluene (2×8 mL). The organic layers were washed with brine (5 mL), dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 80/20) to provide ethyl 2-(tert-butoxy)-2-(3,5-diphenylthiophen-2-yl)acetate (50 mg, 0.13 mmol, 51%).

reactant | ethyl 2-(tert-butoxy)-2-(3,5-dibromothiophen-2-yl)acetate | 0.25 mmol, 100 mg | C(C)(C)(C)OC(C(=O)OCC)C=1SC(=CC1Br)Br | C12H16Br2O3S
reactant | phenylboronic acid | 0.30 mmol, 36 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1.00 mmol, 106 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 0.6 mL | C(C)O | C2H6O
solvent | toluene | 1.26 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium tetrakis(triphenylphosphine) | 0.01 mmol, 14 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | water | 2 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | ethyl 2-(tert-butoxy)-2-(3,5-diphenylthiophen-2-yl)acetate | 0.13 mmol, 50 mg, 51% | C(C)(C)(C)OC(C(=O)OCC)C=1SC(=CC1C1=CC=CC=C1)C1=CC=CC=C1 | C24H26O3S
